US07615556B2
N-(2-benzyl-3-(4-(3,4-dichlorophenyl)piperazin-1-yl)-3-oxopropyl)-4-chlorobenzamide
2-(Aminomethyl)-1-(4-(3,4-dichlorophenyl)piperazin-1-yl)-3-phenylpropan-1-one (40 mg, 0.1 mmol) was dissolved in THF and then TEA (10.3 mg, 0.1 mmol) followed by 4-chlorobenzoyl chloride (0.1 mmol) were added. Upon completion of addition, the reaction mixture was allowed to stir for several hours and then concentrated. The resulting concentrate was subjected to silica gel chromatography (100% EtOAc) to provide Example 7. MS Found 532.1 (M+H).

reactant | 2-(Aminomethyl)-1-(4-(3,4-dichlorophenyl)piperazin-1-yl)-3-phenylpropan-1-one | 0.1 mmol, 40 mg | NCC(C(=O)N1CCN(CC1)C1=CC(=C(C=C1)Cl)Cl)CC1=CC=CC=C1 | C20H23Cl2N3O
reactant | 4-chlorobenzoyl chloride | 0.1 mmol | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | THF | C1CCOC1 | C4H8O
product | N-(2-benzyl-3-(4-(3,4-dichlorophenyl)piperazin-1-yl)-3-oxopropyl)-4-chlorobenzamide | C(C1=CC=CC=C1)C(CNC(C1=CC=C(C=C1)Cl)=O)C(=O)N1CCN(CC1)C1=CC(=C(C=C1)Cl)Cl | C27H26Cl3N3O2
